US05804583
5-Butyl-3-methyl-6-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]imidazo[1,2-a]pyrimidin-2,7-dione
A solution of 0.2 g of 5-butyl-3-methyl-6-[[2'-[N-triphenylmethyl-(1H-tetrazol-5-yl)]biphenyl-4-yl]methyl]imidazo[1,2-a]pyrimidin-2,7-dione in 6 ml of AcOH and 2 ml of H2O is stirred at room temperature for 5 h, then is evaporated under reduced pressure. The residue is taken up into H2O, adjusted to pH 8 with diluted NaOH and extracted with AcOet. The aqueous phase is acidified to pH 5 with AcOH, to separate a solid which is filtered off and washed with H2O, to obtain 0.1 g of a white solid (80% yield, m.p=192°-194° C. dec.).

reactant | 5-butyl-3-methyl-6-[[2'-[N-triphenylmethyl-(1H-tetrazol-5-yl)]biphenyl-4-yl]methyl]imidazo[1,2-a]pyrimidin-2,7-dione | 0.2 g | C(CCC)C1=C(C(N=C2N1C(C(N2)=O)C)=O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C44H39N7O2
solvent | AcOH | 6 ml | CC(=O)O | C2H4O2
solvent | H2O | 2 ml | O | H2O
product | 5-Butyl-3-methyl-6-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]imidazo[1,2-a]pyrimidin-2,7-dione | 0.1 g, 80% yield | C(CCC)C1=C(C(N=C2N1C(C(N2)=O)C)=O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2 | C25H25N7O2
